US04316893
Preparation of 1-n-Nonylazacycloheptan-2-one having the formula
Following example 5, heating 22.83 g (0.2 M) of 6-hexanolactone and 28.65 g (0.2 M) of 1-aminononane at 180° for 20 hours gave 11.5 g (26%) of product; b.p. 155°-165°/0.6 mm.

reactant | 6-hexanolactone | 0.2 M, 22.83 g | C1(CCCCCO1)=O | C6H10O2
reactant | 1-aminononane | 0.2 M, 28.65 g | NCCCCCCCCC | C9H21N
product | 1-n-Nonylazacycloheptan-2-one | 11.5 g, 26% | C(CCCCCCCC)N1C(CCCCC1)=O | C15H29NO
